US04036970
1-[3'-(4"-chlorophenylthio)-2'-hydroxypropyl]imidazole (2.0 g.) and 10 ml. thionyl chloride are warmed gently for 2 hours. Thereafter, the reaction mixture is evaporated to dryness to yield 1-[2'-chloro-3'-(4"-chlorophenylthio)propyl]imidazole hydrochloride as a gum. The gum is dissolved in dichloromethane (100 ml.), basified with aqueous potassium carbonate solution and the organic phase dried over magnesium sulfate and evaporated.

reactant | 1-[3'-(4"-chlorophenylthio)-2'-hydroxypropyl]imidazole | 2.0 g | ClC1=CC=C(C=C1)SCC(CN1C=NC=C1)O | C12H13ClN2OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1-[2'-chloro-3'-(4"-chlorophenylthio)propyl]imidazole hydrochloride | Cl.ClC(CN1C=NC=C1)CSC1=CC=C(C=C1)Cl | InChI=1S/C12H12Cl2N2S.ClH/c13-10-1-3-12(4-2-10)17-8-11(14)7-16-6-5-15-9-16;/h1-6,9,11H,7-8H2;1H
